US05486466
A mixture of 120 mg of 5-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-hydroxy-2-methylbenzoic acid, 87 mg of 4-nitrobenzyl bromide and 139 mg of potassium carbonate in 3 ml of dimethylformamide was stirred at 0° C. for 4 hours. The solvent was evaporated in vacuo, and the residue was triturated with a mixture of methylene chloride and saturated sodium bicarbonate solution. The unsoluble material was isolated by filtration to yield 190 mg of p-nitrobenzyl 5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-3-hydroxy-2-methylbenzoate, m.p. 210°-244° C.

reactant | 5-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-hydroxy-2-methylbenzoic acid | 120 mg | O=C1N(C(C2=CC=CC=C12)=O)C=1C=C(C(=C(C(=O)O)C1)C)O | C16H11NO5
reactant | 4-nitrobenzyl bromide | 87 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | potassium carbonate | 139 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | p-nitrobenzyl 5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-3-hydroxy-2-methylbenzoate | 190 mg | O=C1N(C(C2=CC=CC=C12)=O)C=1C=C(C(=C(C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1)C)O | C23H16N2O7
